US04062955
1-Morpholinomethyl-2-piperidinomethylnaphthalene dihydrochloride, m.p. 243°-244° was prepared in a manner similar to Example 40 from 2-piperidinomethylnaphthalene and chloromethylmorpholine.

reactant | 2-piperidinomethylnaphthalene | N1(CCCCC1)CC1=CC2=CC=CC=C2C=C1 | C16H19N
reactant | chloromethylmorpholine | ClCN1CCOCC1 | C5H10ClNO
product | 1-Morpholinomethyl-2-piperidinomethylnaphthalene dihydrochloride | Cl.Cl.O1CCN(CC1)CC1=C(C=CC2=CC=CC=C12)CN1CCCCC1 | InChI=1S/C21H28N2O.2ClH/c1-4-10-22(11-5-1)16-19-9-8-18-6-2-3-7-20(18)21(19)17-23-12-14-24-15-13-23;;/h2-3,6-9H,1,4-5,10-17H2;2*1H
